US06121307
[2-(6-Fluorochroman-8-yloxy)ethyl]-[2-(5-fluro-1H-indol-3-yl)ethyl]-amine (9b)
A solution of 2-(6-fluorochroman-8-yloxy)ethylchloride (0.26 g, 1.1 mmol), 2-(5-fluoro-1H-indol-3-yl)-ethylamine (0.45 g, 2.1 mmol) and triethylamine (0.30 ml, 2.1 mmol) in anhydrous dimethylsulfoxide (20 ml) was allowed to stir for 14 hours at 90° C. The mixture was poured into water (100 ml) and extracted with methylene chloride (3×100 ml). The organic layer was washed with water (3×150 ml), dried over anhydrous sodium sulfate, filtered and the solvent was removed under vacuum. Chromatography (10% methanol-methylene chloride plus ammonium hydroxide) afforded 0.19 g (48%) of product as a yellow oil.

reactant | 2-(6-fluorochroman-8-yloxy)ethylchloride | 1.1 mmol, 0.26 g | FC=1C=C2CCCOC2=C(C1)OCCCl | C11H12ClFO2
reactant | 2-(5-fluoro-1H-indol-3-yl)-ethylamine | 2.1 mmol, 0.45 g | FC=1C=C2C(=CNC2=CC1)CCN | C10H11FN2
reactant | triethylamine | 2.1 mmol, 0.30 ml | C(C)N(CC)CC | C6H15N
reactant | water | 100 ml | O | H2O
solvent | dimethylsulfoxide | 20 ml | CS(=O)C | C2H6OS
product | [2-(6-Fluorochroman-8-yloxy)ethyl]-[2-(5-fluro-1H-indol-3-yl)ethyl]-amine | 0.19 g, 48% | FC=1C=C2CCCOC2=C(C1)OCCNCCC1=CNC2=CC=C(C=C12)F | C21H22F2N2O2
